US07091342B2
In an autoclave, 0.212 g of p-xylene, 0.011 g of hexahydro-1,3,5-trihydroxy-1,3,5-triazine-2,4,6-trione (3% by mole relative to p-xylene), 5 g of acetic acid, 0.003 g of cobalt(II) acetate.4H2O, 0.003 g of manganese(II) acetate.4H2O and 0.001 g of zirconium oxyacetate were placed. The autoclave was charged with 2 MPa of air and placed in a heated oil bath. The mixture was stirred at 150° C. for 12 hours. After the completion of reaction, the autoclave was placed on cold water to cool down the reaction mixture quickly. The resulting mixture was analyzed by high performance liquid chromatography and was found to yield terephthalic acid in 99% yield at 100% conversion of p-xylene.

reactant | hexahydro-1,3,5-trihydroxy-1,3,5-triazine-2,4,6-trione | 0.011 g | ON1C(N(C(N(C1=O)O)=O)O)=O | C3H3N3O6
reactant | acetic acid | 5 g | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
reactant | p-xylene | CC=1C=CC(=CC1)C | C8H10
reactant | p-xylene | 0.212 g | CC=1C=CC(=CC1)C | C8H10
catalyst | cobalt(II) acetate | 0.003 g | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | manganese(II) acetate | 0.003 g | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
product | terephthalic acid | 99% yield | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
